US05935966
The title compound was prepared by (a) of diethyl ethoxymethylenemalonate (6 g, 27 mmol) with 3',4'-dichlorophenylacetamidine (5.5 g, 27 mmol) to afford 37% of ethyl 4-hydroxy-2-(3',4'-dichlorobenzyl)pyrimidine-5-carboxylate in analogy to Example 15, (b) reaction of ethyl 4-hydroxy-2-(3',4'-dichlorobenzyl)pyrimidine-5-carboxylate (2 g, 6 mmol) with POCl3 (14 g, 92 mmol) to afford 62% of ethyl 4-chloro-2-(3',4'-dichlorobenzyl)pyrimidine-5-carboxylate in analogy to Example 7, (c) reaction of ethyl 4-chloro-2-(3',4'-dichlorobenzyl)pyrimidine-5-carboxylate (1 g, 2.8 mmol) with hydrazine (0.27 g, 8.3 mmol) to afford 99% of ethyl 4-hydrazino-2-(3',4'-dichlorophenyl)pyrimidine-5-carboxylate in analogy to Example 18, (d) reaction of ethyl 4-hydrazino-2-(3',4'-dichlorobenzyl)pyrimidine-5-carboxylate (0.9 g, 2.7 mmol) with citraconic anhydride (0.49 g, 4.4 mmol) in analogy to Example 21 to afford 47% (0.3 g) of the title compound; m.p. 119-121° C.

reactant | ethyl 4-chloro-2-(3',4'-dichlorobenzyl)pyrimidine-5-carboxylate | 2.8 mmol, 1 g | ClC1=NC(=NC=C1C(=O)OCC)CC1=CC(=C(C=C1)Cl)Cl | C14H11Cl3N2O2
reactant | hydrazine | 8.3 mmol, 0.27 g | NN | H4N2
product | ethyl 4-hydrazino-2-(3',4'-dichlorophenyl)pyrimidine-5-carboxylate | 99% | N(N)C1=NC(=NC=C1C(=O)OCC)C1=CC(=C(C=C1)Cl)Cl | C13H12Cl2N4O2
